US08624034B2
Step B) Ethyl (2R)-4-(3,5-difluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate
Cesium carbonate (1.90 g, 5.84 mmol) was added to a solution of the 3,5-difluoro-4-iodopyridin-2(1H)-one (1.0 g, 3.9 mmol) and ethyl (2R)-4-bromo-2-methyl-2-(methylsulfonyl)butanoate, T1, (1.45 g, 5.06 mmol) in tetrahydrofuran:t-butanol (1:1, 50 mL). The resulting suspension was heated to reflux and was stirred at this temperature for 72 h. The reaction was filtered through celite, and the filter pad was washed with EtOAc (3×50 mL). The combined filtrates were concentrated and the crude product was purified via flash chromatography on an Analogix SF15-24 g column using an eluent of EtOAc in hexanes (0-50%) to afford the title compound as a yellow solid (575.6 mg, 32%). MS (LCMS) m/z 463.9 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.23 (s, 3H) 1.58 (s, 3H) 2.20 (dt, J=13.90, 7.00 Hz, 1H) 2.52-2.62 (m, 1H) 3.14 (s, 3H) 4.00 (t, J=7.61 Hz, 2H) 4.05-4.22 (m, 2H) 7.94 (dd, J=4.20, 2.05 Hz, 1H).

reactant | Cesium carbonate | 5.84 mmol, 1.90 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,5-difluoro-4-iodopyridin-2(1H)-one | 3.9 mmol, 1.0 g | FC=1C(NC=C(C1I)F)=O | C5H2F2INO
reactant | ethyl (2R)-4-bromo-2-methyl-2-(methylsulfonyl)butanoate | BrCC[C@](C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
solvent | tetrahydrofuran t-butanol | 50 mL | O1CCCC1.C(C)(C)(C)O
product | Ethyl (2R)-4-(3,5-difluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | 575.6 mg, 32% | FC=1C(N(C=C(C1I)F)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O | C13H16F2INO5S
